Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
codeine / Vicodin
 
Attending: ___.
 
Chief Complaint:
?stroke
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old L-handed woman who presents with right
facial numbness/heaviness, mild dysarthria and now resolved R 
arm
weakness transferred for neurologic evaluation. 

Pt was in normal state of health when she was at the grocery
store at around 7pm this evening when she tried to pick up some
meat with her right hand and dropped it twice. She then felt
onset of numbness/tingling in both of her hands (involving all
fingers) that rose up to involve both arms. She then started to
feel that her body felt "funny"/"internal heaviness"/"internal
trembling" and she walked to the front of the store. As she 
spoke
to a store employee she started slurring her words and felt the
right side of her face/mouth was heavy and numb. She asked for
EMS to be called because she thought she was having a stroke and
then reports feeling lightheaded, falling/bending over the
checkout conveyer belt with possible brief loss of 
consciousness.
The she remembers being on the ground with the ___ employee
holding her. 
She specifically denies any numbness/tingling or weakness in her
legs throughout all of this. 

Her symptoms started improving only several hours later at
___. She currently only has right facial
heaviness/numbness and intermittent dysarthria. Head CT and CTA 
H
and N done at ___ were unremarkable. 

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysphagia, lightheadedness, vertigo, hearing
difficulty. Denies difficulties comprehending speech. No bowel 
or
bladder incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills. Denies history of palpitations, chest pain. 
 
Past Medical History:
Migraine Headaches with visual aura
s/p Neck surgery (?fusion)
Low back pain - ?DJD
Asthma
Depression
Insomnia - ever since the death of her son
s/p Hysterecotmy 

 
Social History:
___
Family History:
DM - Brother and Uncle
Heart disease - Brother (MI at ___) and Aunt
Father had lung cancer
Unsure about history of strokes. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Physical Exam:
Vitals: 98.3F, HR 73, BP 111/64, RR 18, 100% on NC
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, No nuchal rigidity
Cardiac: RRR
Abdomen: soft, NT/ND
Extremities: No ___ Edema
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history with
difficulty with details. Mildly Inattentive, able to name ___
backward until ___ then stops. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 10
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  Pupils 1.5mm b/l and minimally reactive to
light. EOMI with several beats of fine end gaze nystagmus. VFF 
to
confrontation. 
V: Decreased LT and pinprick over V2 and V3 of right face. 
VII: Initially her left mouth appeared drooped compared to the
right. Then throughout our conversation she had R NLFF compared
to L with symmetric activation. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline. 
Mild fluctuating dysarthria - with lingual and guttural sounds
but palate elevates symmetrically and tongue is midline. 

-Motor: Normal bulk, tone throughout. On testing of pronator
drift, her right fingers curl. 
No adventitious movements, such as tremor, noted. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   5  4+  ___    5  5     5    4+  4+
R  5    ___   5  4+  ___    5  5     5    4+  4+

-Sensory: No deficits to light touch, pinprick throughout.
Initially said that left arm was decreased to light touch
compared to right, then said that it was equal. No extinction to
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response was flexor bilaterally. No Hoffmans, b/l
pectoral jerks, b/l crossed adductor. One beat ankle clonus
bilaterally. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  

===================================================

DISCHARGE PHYSICAL EXAM:

AAO x 3. R NLFF with symmetric activation, no dysarthria. Fex 
weakness on the left. SILT. Coordination intact. 

 
Pertinent Results:
ADMISSION LABS:
___ 12:08AM BLOOD WBC-11.7* RBC-4.26 Hgb-13.0 Hct-39.3 
MCV-92 MCH-30.5 MCHC-33.1 RDW-12.7 RDWSD-42.4 Plt ___
___ 12:08AM BLOOD Neuts-57.2 ___ Monos-6.5 Eos-0.9* 
Baso-0.4 Im ___ AbsNeut-6.71* AbsLymp-4.06* AbsMono-0.76 
AbsEos-0.10 AbsBaso-0.05
___ 12:08AM BLOOD ___ PTT-34.7 ___
___ 12:08AM BLOOD Glucose-95 UreaN-9 Creat-0.6 Na-137 K-3.6 
Cl-105 HCO3-21* AnGap-15
___ 04:45AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.2 Cholest-179
___ 04:45AM BLOOD %HbA1c-5.0 eAG-97
___ 04:45AM BLOOD Triglyc-67 HDL-44 CHOL/HD-4.1 LDLcalc-122
___ 04:45AM BLOOD TSH-2.5
___ 12:08AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING:
CXR ___:
No acute process

MRI BRAIN ___:
Small acute infarct in the left frontal cortical region.  No 
signs of
hemorrhage.  No mass effect or hydrocephalus.

TTE ___:
The left atrial volume index is normal. The interatrial septum 
is aneurysmal. No atrial septal defect is seen on color flow 
Doppler, but there is early appearance of agitated 
saline/microbubbles in the left atrium/ventricle at rest most 
consistent with an atrial septal defect or stretched patent 
foramen ovale (though a very proximal intrapulmonary shunt 
cannot be fully excluded). The estimated right atrial pressure 
is ___ mmHg. Normal left ventricular wall thickness, cavity 
size, and regional/global systolic function (biplane LVEF = 61 
%). Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Doppler parameters are most 
consistent with normal left ventricular diastolic function. 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

IMPRESSION: Aneurysmal and dynamic interatrial septum with 
evidence of stretched PFO/ASD. 

LOWER EXT ULTRASOUND ___:
No evidence of deep venous thrombosis in the right or left lower 
extremity veins.

MRV PELVIS ___:
1. No evidence of pelvic venous thrombosis or thrombosis in the 
inferior vena cava.
2. 2 peripherally enhancing structures in the left adnexa, 
containing high signal intensity on precontrast T1 weighted 
images with peripheral rim enhancement on post-contrast images, 
not fully assessed on this examination which was performed to 
assess for venous thrombosis, might represent endometrioma or 
hemorrhagic cyst with hematosalpinx, but can be further 
evaluated with pelvic ultrasound and/or dedicated pelvic MRI as 
clinically indicated.
3. Simple cyst, hepatic segment 6.
 
Brief Hospital Course:
___ woman with no vascular risk factors who presented 
with sudden onset R hand weakness, b/l arm numbness/tingling, 
right facial heaviness and slurred speech, which resolved, found 
to have a left corona radiata stroke. Her exam was initially 
significant for R NLFF with symmetric activation, intermittent 
mild dysarthria with lingual and guttural sounds, R fingers curl 
when testing for drift and mild finger ext weakness on the left. 
Etiology of stoke is likely PFO in the setting of valsalva. MRV 
negative for clot, though did show an incidental finding of two 
peripherally enhancing structures in the left adnexa. LENIs 
negative. Stroke risk factors: LDL 122 and HBA1c 5.0. Patient 
was sent home with with aspirin and atorvastatin. She was given 
a prescription for outpatient hypercoaguble work-up. She will 
follow-up with stroke neurology. 

Transitional issues:
-continue aspirin, atorvastatin
-f/u neurology
-f/u hypercoagulable labs
-Consider pelvic ultrasound to further eval incidental finding 
on mrv pelvis
==========================================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - hsq () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - aspirin () No  
4. LDL documented? (x) Yes (LDL =122 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - atorva 80 () 
No [if LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - atorva 80 () No [if 
LDL >100, reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - aspirin() Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Asmanex Twisthaler (mometasone) 220 mcg (60 doses) inhalation 
BID 
2. Cyclobenzaprine 10 mg PO BID:PRN spasm 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea 
4. Venlafaxine 37.5 mg PO DAILY 
5. TraZODone 50 mg PO QHS 
6. Nortriptyline 25 mg PO QHS 

 
Discharge Medications:
1. Cyclobenzaprine 10 mg PO BID:PRN spasm 
2. Nortriptyline 25 mg PO QHS 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea 
4. TraZODone 50 mg PO QHS 
5. Venlafaxine 37.5 mg PO DAILY 
6. Asmanex Twisthaler (mometasone) 220 mcg (60 doses) inhalation 
BID 
7. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5
8. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*5
9. Outpatient Lab Work
Protein C, Protein S, Anti-thrombin III, B2 glycoprotein, 
anti-cardiolipin, lupus anti-coagulant, factor V Leiden, 
homocysteine, Prothrombin gene mutation

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke
___ foramen ovale

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
You were hospitalized due to symptoms of right arm weakness and 
trouble speaking resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
-high cholesterol
 
We are changing your medications as follows:  
-Start Aspirin 81
-Start Atorvastatin 80
 
Please take your other medications as prescribed.  
 
Please get outpatient lab work at a ___ facility ___ 
would be closer to your home) so we can see the results. 

Please follow-up with Neurology and your primary care physician. 
 
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___